US07030141B2
Step 3: Pyrrolidine-2-carboxylic acid (2′-tert-butylsulfamoyl-3-fluoro-biphenyl-4-yl)-amide
2-(2′-tert-Butylsulfamoyl-3-fluoro-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (1.3 g, 2.5 mmol) was dissolved in 40 mL DCM, cooled in an ice bath, added 10 mL trifluoroacetic acid, stirred at 0° C. for 30 minutes then at ambient temperature for one hour. Concentrated solution, redissolved in EtOAc (150 mL), washed with saturated NaHCO3 (2×100 mL), water (100 mL), brine (100 mL), dried with MgSO4, filtered and concentrated to yield title compound as a white solid. (1 g, 91%) APCI (AP−): 418.2 (M−H)−.

reactant | 2-(2′-tert-Butylsulfamoyl-3-fluoro-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.5 mmol, 1.3 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=C(C=C(C=C1)C1=C(C=CC=C1)S(NC(C)(C)C)(=O)=O)F)=O | C26H34FN3O5S
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | Pyrrolidine-2-carboxylic acid (2′-tert-butylsulfamoyl-3-fluoro-biphenyl-4-yl)-amide | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)NC(=O)C1NCCC1)F | C21H26FN3O3S
